US07645755B2
f) 4-Cyano-1H-imidazole-2-caboxylic acid (2-cyclohept-1-enyl-4-piperidin-4-yl-phenyl)-amide
A solution of 160 mg (0.258 mmol) 4-(4-{[4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-cyclohept-1-enyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (as prepared in the previous step) in 10 mL CH2Cl2 was treated with 200 μL MeOH and 3 mL TFA at RT for 3.5 h. Solvents were evaporated in vacuo. The residue was taken up in CH2Cl2 (30 mL) and washed with saturated aqueous NaHCO3 (1×20 mL). The organic layer was dried (MgSO4) and concentrated in vacuo to afford 100 mg (100%) of the title compound as a white solid: Mass spectrum (ESI, m/z): Calcd. for C23H27N5O, 390.2 (M+H), found 390.3.

reactant | 4-(4-{[4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbonyl]-amino}-3-cyclohept-1-enyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.258 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCCC1 | C34H49N5O4Si
reactant | MeOH | 200 μL | CO | CH4O
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1H-imidazole-2-caboxylic acid (2-cyclohept-1-enyl-4-piperidin-4-yl-phenyl)-amide | 100 mg, 100% | C1(=CCCCCC1)C1=C(C=CC(=C1)C1CCNCC1)NC(=O)C=1NC=C(N1)C#N | C23H27N5O
